US07829582B2
4-[(R)-3-(4-Benzyloxy-2,6-dichloro-benzyl)-2-oxo-pyrrolidin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester
Treat a solution of (R)-4-((R)-benzyl-2-oxo-oxazolidin-3-yl)-3-(4-benzyloxy-2,6-dichloro-benzyl)-4-oxo-butyraldehyde (Preparation 10) (4.0 g, 7.6 mmol) and 4-Amino-1N-Boc-piperidine (1.5 g, 7.6 mmol) in CH2Cl2 (100 mL) with acetic acid (0.4 mL, 7.6 mmol) and stir the reaction 1 hr at room temperature. Treat the reaction with sodium triacetoxyborohydride (3.2 g, 15 mmol) and stir overnight at room temperature. Quench the reaction with water and separate the organic layer. Wash the organic with brine, dry over MgSO4, filter, and remove the solvent. Purify the crude by silica gel column chromatography using Hexanes:EtOAc to elute the pure product. Remove the solvent to afford 2.35 g (58%) of desired product. MS (m/e): 555 (M+Na+).

reactant | (R)-4-((R)-benzyl-2-oxo-oxazolidin-3-yl)-3-(4-benzyloxy-2,6-dichloro-benzyl)-4-oxo-butyraldehyde | 7.6 mmol, 4.0 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CC=O)CC1=C(C=C(C=C1Cl)OCC1=CC=CC=C1)Cl)=O | C28H25Cl2NO5
reactant | 4-Amino-1N-Boc-piperidine | 7.6 mmol, 1.5 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | acetic acid | 7.6 mmol, 0.4 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 15 mmol, 3.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-[(R)-3-(4-Benzyloxy-2,6-dichloro-benzyl)-2-oxo-pyrrolidin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 2.35 g, 58% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C([C@@H](CC1)CC1=C(C=C(C=C1Cl)OCC1=CC=CC=C1)Cl)=O | C28H34Cl2N2O4
